### PR TITLE
[Merged by Bors] - chore(Data/Finset): subset_image_iff about finsets

### PR DESCRIPTION
**Pull request by b-mehta**
State `subset_image_iff` for finsets, and rename the existing set/finset version to a more appropriate name. Also make the analogous change for image2

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Finset/Image.lean [hunk 1]
```diff
@@ -695,9 +695,17 @@ theorem fin_mono {n} : Monotone (Finset.fin n) := fun s t h x => by simpa using
 theorem fin_map {n} {s : Finset ℕ} : (s.fin n).map Fin.valEmbedding = s.filter (· < n) := by
   simp [Finset.fin, Finset.map_map]
 
+theorem subset_image_iff [DecidableEq β] {s : Finset α} {t : Finset β} {f : α → β} :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Finset/Image.lean:698]: Please add a documentation comment with a pointer to `subset_set_image_iff`

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/Data/Finset/Image.lean [hunk 2]
```diff
@@ -695,9 +695,23 @@ theorem fin_mono {n} : Monotone (Finset.fin n) := fun s t h x => by simpa using
...
+  intro x hx
+  specialize ht hx
+  aesop
+
 /-- If a `Finset` is a subset of the image of a `Set` under `f`,
 then it is equal to the `Finset.image` of a `Finset` subset of that `Set`. -/
-theorem subset_image_iff [DecidableEq β] {s : Set α} {t : Finset β} {f : α → β} :
+theorem subset_set_image_iff [DecidableEq β] {s : Set α} {t : Finset β} {f : α → β} :
     ↑t ⊆ f '' s ↔ ∃ s' : Finset α, ↑s' ⊆ s ∧ s'.image f = t := by
   constructor; swap
```
Comment (eric-wieser) [inline Mathlib/Data/Finset/Image.lean:716]: Can you golf this proof to use the new `subset_image_iff`?

File: Mathlib/RingTheory/Finiteness.lean [hunk 3]
```diff
@@ -381,7 +381,7 @@ theorem fg_iff_compact (s : Submodule R M) : s.FG ↔ CompleteLattice.IsCompactE
         rw [sSup', Finset.sup_id_eq_sSup]
         exact sSup_le_sSup huspan
       -- Porting note: had to split this out of the `obtain`
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Finiteness.lean:383]: Does this note still apply?

File: Mathlib/Data/Finset/Image.lean (hunk 2 above)
Comment (b-mehta) [reply Mathlib/Data/Finset/Image.lean:716]: I didn't manage to - the idea would be to convert `s` into a finset, but that's essentially the content of this lemma anyway

File: Mathlib/RingTheory/Finiteness.lean (hunk 3 above)
Comment (b-mehta) [reply Mathlib/RingTheory/Finiteness.lean]: It does not, amended.

**Comment by fpvandoorn** [comment]
bors d+

**Review by b-mehta — COMMENTED** [review]
bors merge
